US08466296B2
E. Preparation of (2S)-N-benzyl-1-[7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine
A 3 L three necked flask equipped with a heating mantle, thermocouple and mechanical stirrer is charged with [7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate (356.8 g, 0.977 mol), DMSO (1 L) and benzylamine (261.7 g, 2.44 mol). The slurry is heated to maintain an internal temperature of 90° C. Heating is continued for 18 h, and then the solution is allowed to cool to 30° C. over 2 h. Water (400 mL) is added over 15 min. then seed crystals (˜100 mg) are added resulting in rapid formation of a precipitate. The slurry is stirred for 30 min prior to additional water (2 L) being added over 1.5 h. The slurry is stirred for 4 h, the solids are collected by vacuum filtration, washed with water (2 L) and suction dried under nitrogen giving the title compound (302.87 g, 103%) as a yellow powder (94% ee). Yield is high due to trapped water, m.p. 98° C. (dried sample). LCMS (Basic Method): 2.05 min, 301 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ 7.77-7.70 (m, 1H), 7.47-7.18 (m, 6H), 7.10-7.06 (m, 1H), 4.47 (dd, J=2.5, 11.5 Hz, 1H), 4.37-4.29 (m, 1H), 4.15 (dd, J=7.1, 11.5 Hz, 1H), 3.73 (s, 2H), 2.82-2.70 (m, 2H), 2.43 (br s, 1H).

reactant | [7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 0.977 mol, 356.8 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C16H15NO7S
reactant | DMSO | 1 L | CS(=O)C | C2H6OS
reactant | benzylamine | 2.44 mol, 261.7 g | C(C1=CC=CC=C1)N | C7H9N
solvent | water | 2 L | O | H2O
solvent | Water | 400 mL | O | H2O
product | (2S)-N-benzyl-1-[7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methanamine | C(C1=CC=CC=C1)NC[C@H]1COC2=C(O1)C=C(C=C2)[N+](=O)[O-] | C16H16N2O4
